US07547710B2
Palladium acetate (0.030 g, 0.13 mmol) and racemic-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (0.25 g, 0.40 mmol) were added to toluene (20 ml) under a nitrogen atmosphere and the mixture was stirred at 40° C. for 30 min. The reaction mixture was cooled to room temperature and 6-bromo-2-isobutyl-4-(4-methylphenyl)quinoline-3-carbonitrile (1.0 g, 2.6 mmol), ethylenediamine (0.44 ml, 6.6 mmol) and sodium tert-butoxide (0.35 g, 3.7 mmol) were added. The mixture was stirred under a nitrogen atmosphere at 80° C. for 2 hrs. The reaction mixture was cooled and partitioned between ethyl acetate and saturated aqueous sodium hydrogen carbonate. The aqueous layer was extracted with ethyl acetate. The organic layer and the extract were combined, and the mixture was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was dissolved in tetrahydrofuran (100 ml). Di-tert-butyl dicarbonate (0.73 ml, 3.2 mmol) was added and the mixture was stirred at room temperature for 1 hr. The reaction mixture was concentrated under reduced pressure and the residue was purified by silica gel column chromatography to give tert-butyl 2-{[3-cyano-2-isobutyl-4-(4-methylphenyl)quinolin-6-yl]amino}ethylcarbamate (0.85 g, yield 70%) as a pale-yellow powder.

reactant | racemic-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.40 mmol, 0.25 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | 6-bromo-2-isobutyl-4-(4-methylphenyl)quinoline-3-carbonitrile | 2.6 mmol, 1.0 g | BrC=1C=C2C(=C(C(=NC2=CC1)CC(C)C)C#N)C1=CC=C(C=C1)C | C21H19BrN2
reactant | ethylenediamine | 6.6 mmol, 0.44 ml | C(CN)N | C2H8N2
reactant | sodium tert-butoxide | 3.7 mmol, 0.35 g | CC(C)([O-])C.[Na+]
reactant | Di-tert-butyl dicarbonate | 3.2 mmol, 0.73 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | Palladium acetate | 0.13 mmol, 0.030 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 2-{[3-cyano-2-isobutyl-4-(4-methylphenyl)quinolin-6-yl]amino}ethylcarbamate | 0.85 g, yield 70% | C(#N)C=1C(=NC2=CC=C(C=C2C1C1=CC=C(C=C1)C)NCCNC(OC(C)(C)C)=O)CC(C)C | C28H34N4O2
